Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Bloody diarrhea
 
Major Surgical or Invasive Procedure:
___ EGD
___ Colonoscopy 
 
History of Present Illness:
___ with a background history of unspecified mood disorder, 
presenting with a six week history of diarrhea, with associated 
mucus and blood per rectum, which has been increasing in 
frequency over the same time period.

The patient states that his diarrhea began about 1.5 months ago. 
At that time, he was experiencing diarrhea about ___. Since 
then, his diarrhea has become more frequent and now he is going 
about every 2 hours. He describes the diarrhea as watery, 
bloody, and mucousy. He also reports a vague abdominal 
discomfort that has also been present over the past few weeks.  

With these symptoms, the patient presented to urgent care and 
was prescribed ciprofloxacin on ___, which he took for 5 days. 
However, when his symptoms did not improve, he presented to the 
ER and was prescribed flagyl for 7 days. However, his symptoms 
still did not improve. He finally was seen by his PCP and 
referred to GI. He was seen by Dr. ___ on ___ with plan 
for colonoscopy ___. However, starting one night prior to 
admission, the patient has started vomiting immediately after 
eating. He describes his emesis as non-bloody, non-bilious, and 
he has been unable to tolerate PO.  

He additionally reports he hasn't been able to sleep more than 
___ hours due to having to use the bathroom so frequently and 
that he's been feeling weak due to sleep deprivation. Denies 
fever, chills. Denies abdominal pain but has had cramping and 
bloating. Denies chest pain, cough. Denies dysuria.
 
Past Medical History:
1. Unspecified mood disorder 
 
Social History:
___
Family History:
Sister has ulcerative colitis.
 
Physical Exam:
===============================
ADMISSION PHYSICAL EXAMINATION:
===============================

VS: Temp 97.3  BP 119/78  HR 104  RR 16  SaO2 96% RA 
GENERAL: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
RESP: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
___: Soft, non-tender, slightly distended, bowel sounds 
present, no organomegaly, no rebound or guarding  
GU: No foley  
EXTREMITIES: Warm, well perfused, 2+ pulses, no clubbing, 
cyanosis or edema
SKIN: Warm, dry, no rashes or notable lesions.   
NEURO: ___ strength upper/lower extremities, grossly normal 
sensation  

===============================
DISCHARGE PHYSICAL EXAMINATION:
===============================

VS: Temp 97.6  BP 109/75  HR 95  RR 18  SaO2 95% RA
GENERAL: sitting up comfortably in bed, no apparent distress  
HEENT: no conjunctival pallor, anicteric sclera, MMM
NECK: supple, non-tender, no LAD, no JVD 
CV: RRR, S1 and S2 normal, no murmurs/rubs/gallops
RESP: CTAB, no wheeze/crackles, breathing comfortably without 
use of accessory muscles of respiration
___: soft, non-tender, no distention, no HSM, BS normoactive
EXTREMITIES: moving all four extremities with purpose, no lower 
extremity edema or joint swelling bilaterally  
NEURO: A/O x3, mood "good" and affect congruent, pleasant and 
interactive, no gross neurological deficits
 
Pertinent Results:
===============
ADMISSION LABS:
===============

___ WBC-5.8# RBC-3.81* Hgb-11.6* Hct-34.8* MCV-91 MCH-30.4 
MCHC-33.3 RDW-12.6 RDWSD-41.8 Plt ___
___ Glucose-170 UreaN-5 Creat-0.6 Na-141 K-4.6 Cl-103 
HCO3-28 AnGap-10
___ Calcium-8.6 Phos-3.0 Mg-2.2
___ CRP-83.4*
___ URINE  MUCOUS-FEW*
___ URINE  RBC-3* WBC-1 BACTERIA-NONE YEAST-NONE EPI-<1
___ URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30* GLUCOSE-NEG 
KETONE-TR* BILIRUBIN-NEG UROBILNGN-0.2 PH-7.0 LEUK-NEG
___ URINE  COLOR-Yellow APPEAR-Clear SP ___

======
MICRO:
======

___ STOOL                             
         C. difficile DNA amplification assay: 
         Negative for toxigenic C. difficile 

___ STOOL     
         CYCLOSPORA STAIN:           PND at discharge
         MICROSPORIDIA STAIN:        PND at discharge
         FECAL CULTURE:              NO SALMONELLA OR SHIGELLA 
FOUND. 
         CAMPYLOBACTER CULTURE:      NO CAMPYLOBACTER FOUND. 
         OVA + PARASITES:            PND at discharge
         FECAL CULTURE:              NO E.COLI 0157:H7 FOUND. 
         FECAL CULTURE:              NO VIBRIO FOUND. 
         FECAL CULTURE:              NO YERSINIA FOUND. 

================
IMAGING/STUDIES:
================

___ ABDOMEN X-RAY
There are at least 3 air-filled loops of small bowel with only 1 
dilated loop, measuring 3.5 cm. These findings are consistent 
with a fluid-filled small bowel, but do not meet criteria for a 
small bowel obstruction. If clinically indicated, consider CT of 
the abdomen and pelvis for further evaluation. 

___ CT ABDOMEN/PELVIS WITH CONTRAST
Pancolitis, most extensive at the descending and sigmoid colon 
and rectum, 
suggestive inflammatory versus infectious colitis. No evidence 
of obstruction. 

___ COLONOSCOPY
Diffuse friability and erythema starting at the rectum with 
spontaneous bleeding in the colon (biopsy). Otherwise normal 
colonoscopy to descending colon.

___ EGD
Normal mucosa in the esophagus. Normal mucosa in the stomach. 
Normal mucosa in the duodenum (biopsy). Otherwise normal EGD to 
third part of the duodenum.

___ GI MUCOSAL BIOPSY
Duodenum biopsy: Duodenal mucosa, within normal limits. 
Sigmoid colon biopsy: Chronic moderately active colitis.
Rectum biopsy: Chronic moderately active colitis.
No granulomata or dysplasia identified.

===========
OTHER LABS:
===========

___ HBsAg-NEG HBsAb-POS HBcAb-NEG
___ CRP-83.4*
___ CRP-39.4*
___ CRP-12.6*
___ CRP-7.8*
___ CRP-4.6
___ HCV Ab-NEG
___ QUANTIFERON-TB GOLD-NEG   

===============
DISCHARGE LABS:
===============
  
___ WBC-18.6* RBC-4.42* Hgb-12.8* Hct-40.5 MCV-92 MCH-29.0 
MCHC-31.6* RDW-12.9 RDWSD-42.1 Plt ___
___ Glucose-129 UreaN-13 Creat-0.7 Na-140 K-5.0 Cl-97 
HCO___-28 AnGap-15
___ Calcium-9.3 Phos-4.6* Mg-2.4
___ CRP-4.___ with a background history of unspecified mood disorder, 
presenting with a six week history of diarrhea, with associated 
mucus and blood per rectum, which has been increasing in 
frequency over the same time period.

====================
ACUTE/ACTIVE ISSUES:
====================

# Ulcerative colitis
Patient presented with a 1.5 month history of watery, bloody and 
mucus like diarrhea, initially occurring one to two times a day, 
but progressively worsening in frequency and volume. Received a 
number of courses of antibiotics for possible infectious 
colitis, with no improvement in symptoms. Seen by Dr. ___ 
as an outpatient, who recommended a colonoscopy. However, due to 
subsequent development of non-bloody, non-bilious vomiting, 
patient was admitted for EGD and colonoscopy. Stool infectious 
studies and C. diff negative. EGD without abnormality. 
Colonoscopy with diffuse friability and erythema, starting at 
rectum, with spontaneous bleeding in the colon. Biopsy of the 
sigmoid and rectum showing chronic moderately active colitis, 
without granulomata or dysplasia, consistent with ulcerative 
colitis. Commenced on IV methylprednisolone with significant 
improvement in symptoms. Decision was made to transition to oral 
steroid therapy to facilitate discharge. Plan is to commence 
biologic therapy as an outpatient. Work-up for this has been 
negative, including HBV/HCV and quantiferon testing.

======================
CHRONIC/STABLE ISSUES:
======================

# Unspecified mood disorder
Continued home bupropion, aripiprazole and lamotrigine, with 
close monitoring of patient for mood changes in the setting of 
high dose intravenous steroid use. 

====================
TRANSITIONAL ISSUES:
====================

- discharge WBC 18.6 (on high dose steroids)
- discharge Hgb 12.8
- discharge creatinine 0.7
- discharge CRP 4.6

MEDICATION CHANGES:
[] started prednisone 40mg daily
[] started multivitamin with minerals one tablet daily

[] Follow-up with your PCP as arranged
[] Follow-up with Dr. ___ further 
management/treatment of ulcerative colitis
[] High dose prednisone 40mg without taper until advised to do 
so by GI
[] Plan to transition to ___ as outpatient
[] Would advise considering vitamin D/calcium supplementation if 
remaining of long term steroids

===================================================
# CODE STATUS: Full
# CONTACT: ___, father, number: ___
 
___ on Admission:
1. ARIPiprazole 4 mg PO DAILY 
2. BuPROPion XL (Once Daily) 300 mg PO DAILY 
3. LamoTRIgine 300 mg PO DAILY 

 
Discharge Medications:
1.  Multivitamins W/minerals 1 TAB PO DAILY 
RX *multivitamin,tx-minerals [Multi-Vitamin HP/Minerals]  1 
capsule(s) by mouth Once a day Disp #*30 Capsule Refills:*0 
2.  PredniSONE 40 mg PO DAILY 
Do not taper until advised by your GI doctor 
RX *prednisone 20 mg 2 tablet(s) by mouth Once a day Disp #*60 
Tablet Refills:*0 
3.  ARIPiprazole 4 mg PO DAILY  
4.  BuPROPion XL (Once Daily) 300 mg PO DAILY  
5.  LamoTRIgine 300 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Ulcerative colitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

WHY YOU CAME TO THE HOSPITAL
You were admitted to ___ due to ongoing diarrhea, which was 
bloody and mucus like.

WHAT HAPPENED WHILE YOU WERE IN THE HOSPITAL
- You had an endoscopy and colonoscopy to identify a cause for 
your symptoms
- Biopsy confirmed that this was likely ulcerative colitis
- Stool studies were negative for infection
- You were started on IV steroids, with significant improvement 
in your symptoms
- You were transitioned to oral steroids to facilitate your 
discharge
- The plan is to commence adalimumab as an outpatient

WHAT YOU NEED TO DO WHEN YOU LEAVE THE HOSPITAL
- You need to follow-up with your PCP as arranged
- You will receive an appointment to follow up with GI. If you 
have not heard from them by the end of the week, you are advised 
to contact Dr. ___ office at: ___

It was a pleasure taking care of you.

Your ___ Healthcare Team

MEDICATION CHANGES:
[] started prednisone 40mg daily
[] started multivitamin with minerals one tablet daily
 
Followup Instructions:
___